US07452911B2
3.34b N-(5-bromo-pyridin-2-yl)-2-pyrrolidin-1-yl-propionamide
4.01 g (29.0 mmol) K2CO3 and 1.19 mL (14.5 mmol) pyrrolidine are added successively to a solution of 3.5 g (13.3 mmol) N-(5-bromo-pyridin-2-yl)-2-chloro-propionamide in 50 mL DMF. The reaction is stirred for 3 days at RT and combined with 150 mL water. The aqueous phase is extracted twice with EtOAc and the organic phase is dried over MgSO4. After the desiccant and solvent have been eliminated the residue is purified by chromatography (silica gel, gradient: PE/EtOAc 4:6 after EtOAc).

reactant | K2CO3 | 29.0 mmol, 4.01 g | C(=O)([O-])[O-].[K+].[K+]
reactant | pyrrolidine | 14.5 mmol, 1.19 mL | N1CCCC1 | C4H9N
reactant | N-(5-bromo-pyridin-2-yl)-2-chloro-propionamide | 13.3 mmol, 3.5 g | BrC=1C=CC(=NC1)NC(C(C)Cl)=O | C8H8BrClN2O
reactant | water | 150 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N-(5-bromo-pyridin-2-yl)-2-pyrrolidin-1-yl-propionamide | BrC=1C=CC(=NC1)NC(C(C)N1CCCC1)=O | C12H16BrN3O
